US07345203B1
An improved process for producing triarylamines directly from an aniline is to react an arylchloride with an aniline compound in the presence of a suitable catalyst. For example, 3,4-dimethylaniline can be rapidly reacted with chlorobenzene to form 3,4-dimethyl-N,N-diphenylaniline using palladium acetate ligated with 2,4,6-trioxa-1,3,5,7-tetramethyl-8-phosphaadamantane, which is manufactured as Cytop-216 (Cytec Industries), and sodium t-pentoxide base. This reaction proceeds rapidly, in about 4 to 8 hours to produce the desired triarylamine.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3,4-dimethyl-N,N-diphenylaniline | CC=1C=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1C | C20H19N
